US04568695
[2-Amino-5-chloro-3-(2-hydroxyethyl)phenyl]phenylmethanone
A suspension of 14 g (0.05 mole) of 2-amino-5-chloro-3-[hydroxy(phenyl)methyl]benzene ethanol in 500 ml of benzene was treated with 23 g (0.25 mole) of activated manganese dioxide and brought to reflux in a vessel fitted with a Dean-Stark trap. After 5 hours the hot mixture was filtered through Celite and the benzene stripped to yield a yellow material. This material was recrystallized from ethanol:pet. ether (30:60) to give 10.8 g of the titled compound, m.p. 135°-137° C.

reactant | 2-amino-5-chloro-3-[hydroxy(phenyl)methyl]benzene ethanol | 0.05 mole, 14 g | NC1=C(C=C(C=C1C(C1=CC=CC=C1)O)Cl)CCO | C15H16ClNO2
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
catalyst | manganese dioxide | 0.25 mole, 23 g | [O-2].[O-2].[Mn+4]
product | [2-Amino-5-chloro-3-(2-hydroxyethyl)phenyl]phenylmethanone | 10.8 g | NC1=C(C=C(C=C1CCO)Cl)C(=O)C1=CC=CC=C1 | C15H14ClNO2
